US04985419
Working in a manner similar to that described below in Example 80, but starting with N-(3-chlorobenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide, L series (2 g) in acetic acid (60 cc) and with mercuric acetate (1.3 g), N-(3-chlorobenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide, L series (1.2 g) is obtained in the form of a yellow product of meringue-like consistency. This product is dissolved in acetonitrile (20 cc), and a 2.4 N solution (0.8 cc) of hydrochloric acid in ethyl ether is then added. The crystals are separated by filtration and dried under reduced pressure (5 mm Hg; 0.67 kPa) at 40° C. N-(3-Chlorobenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride, L series (1.0 g) is obtained in the form of white crystals, m.p. 208° C.

reactant | N-(3-chlorobenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide | ClC=1C=C(CNC(=S)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC1 | C27H28ClN3S2
reactant | N-(3-chlorobenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide | ClC=1C=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC1 | C27H28ClN3OS
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 60 cc | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 20 cc | C(C)#N | C2H3N
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-(3-Chlorobenzyl)-10-[1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride | Cl.ClC=1C=C(CNC(=O)C2=CC=3N(C4=CC=CC=C4SC3C=C2)C(CN2CCCC2)C)C=CC1 | InChI=1S/C27H28ClN3OS.ClH/c1-19(18-30-13-4-5-14-30)31-23-9-2-3-10-25(23)33-26-12-11-21(16-24(26)31)27(32)29-17-20-7-6-8-22(28)15-20;/h2-3,6-12,15-16,19H,4-5,13-14,17-18H2,1H3,(H,29,32);1H
